US04463172
A 5 ml portion of pyridine was added to a solution of 2.8 g of diphenylmethy 7-(2-thienylacetamido)-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate in 60 ml of CH2Cl2, and 3.05 g of PCl3 was then added to the mixture at -10° C. under a stream of nitrogen, followed by stirring at the same temperature for 1 hour. After adding 50 ml of MeOH in once, the mixture was stirred at from -15° to -10° C. for 30 minutes and further at room temperature for 2 hours. Following addition of 100 ml of 0.5M K2HPO4 solution, the reaction solution was adjusted to pH 2.0 with 25% H3PO4, and stirred for 30 minutes to separate out the CH2Cl2 layer. The CH2Cl2 layer was washed with saturated aqueous NaCl solution, and dried over MgSO4 , followed by distilling off the CH2Cl2 under reduced pressure. The residue was added on a column of silica gel, and the fractions eluted with CH2Cl2.AcOEt (35:1) were collected to distill off the solvent under reduce pressure, thus yielding 1.44 g (66%) of diphenylmethyl 7-amino-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate.

reactant | diphenylmethy 7-(2-thienylacetamido)-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 2.8 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H27N3O5S2
reactant | PCl3 | 3.05 g | P(Cl)(Cl)Cl | Cl3P
reactant | K2HPO4 | 0.5M, 100 ml | OP(=O)([O-])[O-].[K+].[K+]
reactant | H3PO4 | OP(=O)(O)O | H3O4P
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 50 ml | CO | CH4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | diphenylmethyl 7-amino-2α-methyl-3-methoxyiminomethylceph-3-em-4-carboxylate | 1.44 g, 66% | NC1[C@@H]2N(C(=C([C@H](S2)C)C=NOC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H23N3O4S
